* D:\Disco HDD\Documentos\Facultad\ITBA\4° año\2° cuatri\22.59 - Electrónica I\Cursada\Trabajos Prácticos\Electro1\Trabajo Práctico 2\LTSPICE\carga_pasiva_montecarlo\darlington.asc
Q1 Vcc vi N003 0 BC547B
Q2 Vcc N003 N004 0 BC547B
RB Vcc vi {mc({RB},tol_RB)}
Vcc Vcc 0 9
RE N004 0 {mc({RE},tol_RE)}
C1 vi N002 100n
R1 N002 N001 {mc({R1},tol_R1)}
RL 0 vout {mc({RL},tol_RL)}
C2 N004 vout 100n
V1 N001 0 SINE(0 10m 5k) AC 1
.model NPN NPN
.model PNP PNP
.lib C:\Users\germa\Documents\LTspiceXVII\lib\cmp\standard.bjt
.ac dec 100 .1 1G
.param RB 1k
.param R1 50
.param RL 100k
.param RE 0.9k
.param tol_R1 0.05
.param tol_RB=0.5
.param tol_RL=0.05
.param tol_RE=0.05
.step param run 1 100 1
.backanno
.end
